US07550474B2
l. N-[2-(Amidinoaminooxy)ethyl]-2-{3-[(2,2-difluoro-2-(5-methylpyridyl)ethyl)amino]-6-cyano-2-fluorophenyl}acetamide
N-[2-(N′,N″-Bis(tert-butoxycarbonyl)amidinoaminooxy)ethyl]-2-{3-[(2,2-difluoro-2-(5-methylpyridyl)ethyl)amino]-6-cyano-2-fluorophenyl}acetamide (832 mg, 1.28 mmol), as prepared in the previous step, was dissolved into CH2Cl2 (6 mL), cooled to 0° C. and treated with TFA (2 mL), then allowed to warm to rt. After 12 h, the reaction was concentrated in vacuo to afford a yellow oil. Purification via flash chromatography (inactivated with NH3, 10% MeOH/CH2Cl2) afforded the product as a white solid (413 mg, 0.92 mmol, 72% yield). 1H NMR (300 Hz, CD3OD) δ 8.49 (s, 1H), 7.73 (d, J=7.9 Hz, 1H), 7.57 (d, J=8.2 Hz, 1H), 7.27 (d, J=8.6 Hz, 1H), 6.82 (t, J=8.2 Hz, 1H), 4.07 (t, J=13.8 Hz, 2H), 3.79 (t, J=5.3 Hz, 2H), 3.72 (d, J=1.98 Hz, 2H), 3.42 (t, J=5.3 Hz, 2H), 2.39 (s, 3H); LC/MS (m/z) [M+1]+ 450.2 (calculated for C20H23F3N7O2, 450.4).

reactant | N-[2-(N′,N″-Bis(tert-butoxycarbonyl)amidinoaminooxy)ethyl]-2-{3-[(2,2-difluoro-2-(5-methylpyridyl)ethyl)amino]-6-cyano-2-fluorophenyl}acetamide | 1.28 mmol, 832 mg | C(C)(C)(C)OC(=O)N=C(N)N(OCCNC(CC1=C(C(=CC=C1C#N)NCC(C1=NC=C(C=C1)C)(F)F)F)=O)C(=O)OC(C)(C)C | C30H38F3N7O6
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
product | N-[2-(Amidinoaminooxy)ethyl]-2-{3-[(2,2-difluoro-2-(5-methylpyridyl)ethyl)amino]-6-cyano-2-fluorophenyl}acetamide | 0.92 mmol, 413 mg, 72% yield | C(N)(=N)NOCCNC(CC1=C(C(=CC=C1C#N)NCC(C1=NC=C(C=C1)C)(F)F)F)=O | C20H22F3N7O2
